US07902252B2
6.13. Synthesis of ±(1S,1aS,5aR)-1-phenethyl-1a,4,5,5a-tetrahydro-1H-4-aza-cyclopropa[α]pentalene-3-carboxylic acid (143)
The title compound was synthesized from ±(1S,1aS,5aR)-1-phenethyl-1a,4,5,5a-tetrahydro-1H-4-aza-cyclopropa[α]pentalene-3-carboxylic acid ethyl ester (295 mg, 1.0 mmol) and lithium hydroxide (419 mg, 10.0 mmol in 7 mL water) according to General Procedure 7. A 1:1 mixture of methanol (MeOH) and THF (14 mL) was used. The resulting product was purified by chromatography, eluting with heptane-EtOAc, 0 to 50% EtOAc. 225 mg. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 0.93-1.06 (m, 1H), 1.07-1.17 (m, 1H), 1.24-1.38 (m, 1H), 1.98 (q, J=6.90 Hz, 1H), 2.20 (t, J=6.74 Hz, 1H), 2.50 (d, J=17.33 Hz, 1H), 2.53-2.61 (m, 2H), 2.88 (dd, J=17.23, 7.13 Hz, 1H), 6.80 (d, J=1.51 Hz, 1H), 7.07 (d, J=7.08 Hz, 2H), 7.16 (d, J=7.32 Hz, 1H), 7.24 (t, J=7.39 Hz, 2H), 8.81 (br. s, 1H). LCMS m/e 268 (M+H). Purity 98% (HPLC).

reactant | (1S,1aS,5aR)-1-phenethyl-1a,4,5,5a-tetrahydro-1H-4-aza-cyclopropa[α]pentalene-3-carboxylic acid ethyl ester | 1.0 mmol, 295 mg | C(C)OC(=O)C=1NC=2C[C@H]3[C@@H](C2C1)[C@H]3CCC3=CC=CC=C3 | C19H21NO2
reactant | lithium hydroxide | 10.0 mmol, 7 mL, 419 mg | [OH-].[Li+]
reactant | methanol | CO | CH4O
solvent | THF | 14 mL | C1CCOC1 | C4H8O
product | (1S,1aS,5aR)-1-phenethyl-1a,4,5,5a-tetrahydro-1H-4-aza-cyclopropa[α]pentalene-3-carboxylic acid | C(CC1=CC=CC=C1)[C@@H]1[C@H]2[C@@H]1CC=1NC(=CC21)C(=O)O | C17H17NO2
